US07208140B2
a) 1,3,5-Triiodo-2,4,6-tris-(oxiranylmethoxymethyl)benzene
55 ml of a 32% NaOH solution is added in drops at room temperature to a mixture that consists of 11.0 g (20.1 mmol) of 1,3,5-triiodo-2,4,6-trishydroxymethylbenzene, 55.5 g (0.6 mol) of epichlorohydrin and 1.1 g (3.2 mmol) of tetrabutylammonium hydrogen sulfate within 1 hour, and then it is stirred for 12 hours. It is mixed with 150 ml of water and extracted twice with 200 ml each of toluene. The combined organic phases are dried on sodium sulfate, the solvent is evaporated to the dry state and chromatographed on silica gel (mobile solvent:hexane/ethyl acetate 10:1). The fractions that contain the product are combined and concentrated by evaporation.

reactant | NaOH | [OH-].[Na+]
reactant | 1,3,5-triiodo-2,4,6-trishydroxymethylbenzene | 20.1 mmol, 11.0 g | IC1=C(C(=C(C(=C1CO)I)CO)I)CO | C9H9I3O3
reactant | epichlorohydrin | 0.6 mol, 55.5 g | C(Cl)C1CO1 | C3H5ClO
reactant | water | 150 ml | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 3.2 mmol, 1.1 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1,3,5-Triiodo-2,4,6-tris-(oxiranylmethoxymethyl)benzene | IC1=C(C(=C(C(=C1COCC1OC1)I)COCC1OC1)I)COCC1OC1 | C18H21I3O6
